US06562849B1
3,5-Di-t-butyl-N-[2-[4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl]ethyl]-4-hydroxybenzamide hydrochloride (hydrochloride of exemplification compound number 6-51)
A mixture of anhydrous triethylamine (0.106 g), 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.3 g), anhydrous N,N-dimethylformamide (10 ml), 3,5-di-t-butyl-4-hydroxybenzoic acid (0.13 g) and 1-ethyl-3-[(3′-dimethylamino)propyl]carbodiimide hydrochloride (WSC.HCl, 0.13 g) was stirred at room temperature for 4.5 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by liquid chromatography on a silica gel column using ethyl acetate:n-hexane=4:1 as the eluant. To a solution of the glassy product in ethyl acetate (15 ml) was added 4N hydrogen chloride in 1,4-dioxane (2 ml) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was crystallized in acetone to afford the title compound (0.17 g, pale yellow powder, mp 164-168° C.).

reactant | triethylamine | 0.106 g | C(C)N(CC)CC | C6H15N
reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.3 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 0.13 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | WSC.HCl | 0.13 g | CCN=C=NCCCN(C)C.Cl
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-Di-t-butyl-N-[2-[4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl]ethyl]-4-hydroxybenzamide hydrochloride | 0.17 g | Cl.C(C)(C)(C)C=1C=C(C(=O)NCCC2=CC=C(C=C2)OC=2C=CC3=C(N(C(=N3)COC3=CC=C(C=C3)CC3C(NC(S3)=O)=O)C)C2)C=C(C1O)C(C)(C)C | InChI=1S/C42H46N4O6S.ClH/c1-41(2,3)31-21-27(22-32(37(31)47)42(4,5)6)38(48)43-19-18-25-8-14-29(15-9-25)52-30-16-17-33-34(23-30)46(7)36(44-33)24-51-28-12-10-26(11-13-28)20-35-39(49)45-40(50)53-35;/h8-17,21-23,35,47H,18-20,24H2,1-7H3,(H,43,48)(H,45,49,50);1H
